US07790724B2
b) 4-Cyano-5-(1-hydroxy-1-methyl-ethyl)-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide
A solution of 4-cyano-5-(1-hydroxy-1-methyl-ethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide (as prepared in the previous step, 40.0 mg, 0.0715 mmol) and tetrabutylammomium fluoride (357 μL, 0.357 mmol, 1.0 M in THF) in 2.0 mL of THF was stirred under Ar at 50° C. for 16 h and at reflux for 3 h. After cooling to RT, the mixture was treated with EtOAc (40 mL) and washed with saturated NH4Cl aqueous solution (5 mL), brine (10 mL) and dried (Na2SO4). The organic layer was concentrated in vacuo and residue was purified by flash chromatography on silica gel (5-10% EtOAc/DCM) to give 26 mg (84%) of the title compound as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 11.79 (s, 1H), 9.55 (s, 1H), 8.23 (d, 1H, J=8.6 Hz), 7.42 (dd, 1H, J=8.6, 2.3 Hz), 7.33 (d, 1H, J=2.3 Hz), 5.87 (m, 1H), 5.08 (s, 1H), 2.16-2.34 (m, 4H), 1.83 (s, 6H), 1.71-1.88 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C20H21BrN4O2, 429.1 (M+H), found 428.9.

reactant | 4-cyano-5-(1-hydroxy-1-methyl-ethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide | BrC1=CC(=C(C=C1)NC(=O)C=1N(C(=C(N1)C#N)C(C)(C)O)COCC[Si](C)(C)C)C1=CCCCC1 | C26H35BrN4O3Si
reactant | fluoride | 0.357 mmol, 1.0 M, 357 μL | [F-]
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-Cyano-5-(1-hydroxy-1-methyl-ethyl)-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide | 26 mg, 84% | BrC1=CC(=C(C=C1)NC(=O)C=1NC(=C(N1)C#N)C(C)(C)O)C1=CCCCC1 | C20H21BrN4O2
